US08492378B2
5-bromo-3,3-dimethyl-2,3-dihydro-1-benzothiophene
To a suspension of aluminum chloride (10.7 g, 80.0 mmol) in carbon disulfide (80 mL) was added dropwise a solution of 1-[(4-bromophenyl)thio]-2-methylpropan-2-ol (5.22 g, 20.0 mmol) in carbon disulfide (20 mL) at 0° C., and the resulting mixture was stirred at room temperature for 30 min, and heated under reflux for 3 hr. After cooling, the reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane) to give the title compound (1.64 g, yield 34%) as a colorless oil.

reactant | aluminum chloride | 80.0 mmol, 10.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-[(4-bromophenyl)thio]-2-methylpropan-2-ol | 20.0 mmol, 5.22 g | BrC1=CC=C(C=C1)SCC(C)(O)C | C10H13BrOS
solvent | carbon disulfide | 80 mL | C(=S)=S | CS2
solvent | carbon disulfide | 20 mL | C(=S)=S | CS2
product | 5-bromo-3,3-dimethyl-2,3-dihydro-1-benzothiophene | 1.64 g, yield 34% | BrC=1C=CC2=C(C(CS2)(C)C)C1 | C10H11BrS
